US06956042B2
tert-Butyl 6-(3-pyridyl)-2,6-diazaspiro[4.4]nonane-2-carboxylate
A mixture of tert-butyl 2,6-diazaspiro[4.4]nonane-2-carboxylate (1.00 g, ˜4.4 mmol), 3-bromopyridine (0.736 g, 4.66 mmol), potassium tert-butoxide (1.22 g, 10.9 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.155 g, 0.169 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.158 g, 0.254 mmol) and dry toluene (25 mL) was placed in a pressure tube under argon. The mixture was stirred and heated at 180° C. (bath temperature) for 8 h and cooled. Thin layer analysis indicated that very little conversion had taken place. A second charge, equal in quantity to the first, of all reagents except the tert-butyl 2,6-diazaspiro[4.4]nonane-2-carboxylate was added to pressure tube and the tube was returned to the bath for another 8 h. Again relatively little reaction seemed to have occurred, so a third charge of reagents was added and heating (at 180° C.) was continued for a third 8 h period. Water (20 mL) was added and the mixture was extracted with ethyl acetate (6×25 mL). The extracts were dried (K2CO3) and concentrated. Column chromatography of the residue on Merck silica gel 60 (70-230 mesh), with 6:4 (v/v) chloroform/acetone, gave 150 mg (˜11%) of light brown oil, after concentration of selected fractions.

reactant | tert-butyl 2,6-diazaspiro[4.4]nonane-2-carboxylate | ˜4.4 mmol, 1.00 g | C1N(CCC12NCCC2)C(=O)OC(C)(C)C | C12H22N2O2
reactant | 3-bromopyridine | 4.66 mmol, 0.736 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium tert-butoxide | 10.9 mmol, 1.22 g | CC(C)([O-])C.[K+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.254 mmol, 0.158 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.169 mmol, 0.155 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | 20 mL | O | H2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 6-(3-pyridyl)-2,6-diazaspiro[4.4]nonane-2-carboxylate | N1=CC(=CC=C1)N1C2(CCN(C2)C(=O)OC(C)(C)C)CCC1 | C17H25N3O2
